US06130338
To the solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, 15.0 g of water, and 60.0 g of acetone in a quartz round flask reactor, 45.6 g (0.20 mol) of (NH4)2S2O8 (ammonium peroxydisulfate produced by Mitsubishi Gas Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 5 days at ambient temperature with irradiation by 500 W Xe lamps (UXL-500D xenon lamp produced by Ushio). After completion, acetone was evaporated under reduced pressure, neutralized by NaOH (aq), and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 17.4 g of 1-benzyl-3,4-dihydroxypyrrolidine (yield 90.0%) was obtained and 1-benzyl-3-pyrroline was not recovered.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 15.0 g | O | H2O
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | 1-benzyl-3,4-dihydroxypyrrolidine | 17.4 g, yield 90.0% | C(C1=CC=CC=C1)N1CC(C(C1)O)O | C11H15NO2
